US04695578
1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one
A solution of 1,2,3,9-tetrahydro-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one (1.0 g) in dry dimethylformamide (10 ml) was added dropwise under nitrogen to a stirred, ice-cooled suspension of sodium hydride (80% in oil; 0.11 g) in dry dimethylformamide (5 ml). After 0.5 h dimethylsulphate (0.34 ml) was added, and the solution stirred at room temperature for 4 h. The resultant solid was filtered off, washed with ice-cold dry dimethylformamide (2×5 ml) and dry ether (3×15 ml) and dried to give the title compound as a solid (0.25 g) m.p. 223°-224° (dec).

reactant | 1,2,3,9-tetrahydro-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one | 1.0 g | CC=1N(C=CN1)CC1CCC=2NC3=CC=CC=C3C2C1=O | C17H17N3O
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | dimethylsulphate | 0.34 ml | COS(=O)(=O)OC | C2H6O4S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one | 0.25 g | CN1C2=CC=CC=C2C=2C(C(CCC12)CN1C(=NC=C1)C)=O | C18H19N3O
